US05969072
Phenylacetylene is reacted with one equivalent of butyllithium at -78° C. to give lithiophenylacetylene. Two equivalents of lithiophenylacetylene are reacted with 1,7-bis(chlorotetramethyldisiloxyl)-m-carborane to give 1,7-bis(phenylacetylenetetramethyldisiloxyl)-m-carborane. This latter material can be used in the hydrosilation reaction as 1,7-bis(ethynyltetramethyldisiloxyl)-m-carborane above.

reactant | Phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | butyllithium | one equivalent | C(CCC)[Li]
product | lithiophenylacetylene | [Li]C#CC1=CC=CC=C1 | InChI=1S/C8H5.Li/c1-2-8-6-4-3-5-7-8;/h3-7H;
